data/oMe_Silver.jsonl
{"reaction_id": "NR-143_1-C(C)(C)C_2-C_3-c1ccc(OC)cc1","name": "Meyer-Schuster Rearrangement","level": "medium","reactants_smiles": ["C(C#CC(C)(C)C)(O)(C)(c1ccc(OC)cc1)"],"products_smiles": ["C(=O)(C(C)(C)C)C=C(C)(c1ccc(OC)cc1)"],"conditions": "Acid","mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C([OH2+])(C#CC(C)(C)C)(C)(c1ccc(OC)cc1)","rationale": "Protonation of the hydroxyl group increases its leaving group ability by converting OH into water, favored under acidic conditions due to enhanced electrophilicity at the adjacent carbon."},{"step": 2,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "[C+](C#CC(C)(C)C)(C)(c1ccc(OC)cc1)","rationale": "Loss of water generates a carbocation stabilized by adjacent propargyl resonance, making elimination favorable despite potential steric effects from C and c1ccc(OC)cc1."},{"step": 3,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C(O)(C(C)(C)C)=C=C(C)(c1ccc(OC)cc1)","rationale": "Nucleophilic attack of water on the electrophilic carbocation occurs, driven by carbocation stability and the ability to form an enol intermediate conjugated with the alkyne."},{"step": 4,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(=O)(C(C)(C)C)C=C(C)(c1ccc(OC)cc1)","rationale": "Proton transfer tautomerizes the enol to the more thermodynamically stable α,β-unsaturated carbonyl, favored by conjugation between the C=O and C=C."}],"description": "Under acidic conditions, the propargyl alcohol undergoes protonation to activate the hydroxyl group, followed by water loss to form a stabilized carbocation. Nucleophilic addition and proton transfers rearrange the triple bond into an α,β-unsaturated carbonyl via the Meyer–Schuster pathway."}
